US06002008
6,7-Dimethoxy-4(3-phenoxyphenylamino)quinoline-3-carbonitrile
A mixture of 0.248 g (1 mmol)of 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile, 0.204 g (1.1 mmol) of 3-phenoxyaniline, 0.116 g (1 mmol) pyridine hydrochloride and 12 ml of 2-ethoxyethanol was heated in a 138-140° C. oil bath for 3 hours; progress of the reaction was monitored by TLC. When TLC indicated the disappearance of starting material, the reaction was cooled and concentrated in vacuo to a thick oil. To this oil was added 50 ml of water followed by 5 ml of 1M NaHCO3, approximately pH 8. The resulting precipitate was collected, washed with water and diethyl ether, and dried in vacuo at 65° C. to give 0.309 g (78%) of the desired product as cream crystals. MP 253-254° C.; : mass spectrum (electrospray, m/e,): 397.0(M+H)+.

reactant | 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile | 1 mmol, 0.248 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-phenoxyaniline | 1.1 mmol, 0.204 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | pyridine hydrochloride | 1 mmol, 0.116 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxyethanol | 12 ml | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4(3-phenoxyphenylamino)quinoline-3-carbonitrile | 0.309 g, 78% | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H19N3O3
